US08563550B2
2-Ethylamino-imidazo[2,1-b][1,3,4]thiadiazole-5-sulfonic acid ethylamide
2-Bromo-imidazo[2,1-b][1,3,4]thiadiazole-5-sulfonyl chloride (0.15 g; 0.50 mmol) was dissolved in dry acetonitrile (5 mL). Triethylamine (69 μL; 0.50 mmol) was added, and the reaction mixture was cooled at 0° C. for 10 minutes before adding ethylamine (2M in tetrahydrofuran, 2.5 mL; 5.0 mmol). The reaction was allowed to reach room temperature and stirred overnight. The solvent was evaporated and the crude taken up in dichloromethane and sodium hydrogen carbonate solution. Extraction with dichloromethane, drying over sodium sulphate and evaporation of the solvent gave a brown gum that was purified on silica gel (ethyl acetate:hexane 4:1). The title product 2-ethylamino-imidazo[2,1-b][1,3,4]thiadiazole-5-sulfonic acid ethylamide was isolated as a white powder (43 mg, 31%).

reactant | 2-Bromo-imidazo[2,1-b][1,3,4]thiadiazole-5-sulfonyl chloride | 0.50 mmol, 0.15 g | BrC1=NN2C(S1)=NC=C2S(=O)(=O)Cl | C4HBrClN3O2S2
reactant | Triethylamine | 0.50 mmol, 69 μL | C(C)N(CC)CC | C6H15N
reactant | ethylamine | 5.0 mmol, 2M, 2.5 mL | C(C)N | C2H7N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 2-ethylamino-imidazo[2,1-b][1,3,4]thiadiazole-5-sulfonic acid ethylamide | C(C)NS(=O)(=O)C1=CN=C2SC(=NN21)NCC | C8H13N5O2S2
